US09406892B2
Into a solution of 4-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophene (10.637 g, 28.3 mmol) in THF (200 ml), a solution of sec-butyllithium 1.4 M (27.2 ml, 38.1 mmol) in cyclohexane at −78° C. was added slowly. The resulting mixture was stirred at −78° C. for 2 hours before quenching with 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (8.65 ml, 42.4 mmol) added at one portion. The mixture was gradually warmed to room temperature, stirred overnight, and then quenched with methanol. The solvent was evaporated. The residue was purified by column chromatography on silica gel with a heptane/DCM (4/1 to 1/1) eluent and then precipitation in MeOH to yield 2-(6-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophen-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (9.3 g, 65.5% yield) as a white solid.

reactant | 4-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophene | 28.3 mmol, 10.637 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC2=C1SC1=C2C=CC=C1)C | C27H20S
reactant | sec-butyllithium | 38.1 mmol, 1.4 M, 27.2 ml | C(C)(CC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 42.4 mmol, 8.65 ml | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(6-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]thiophen-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 9.3 g, 65.5% yield | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC=2C3=C(SC21)C(=CC=C3)B3OC(C(O3)(C)C)(C)C)C | C33H31BO2S
